US04002764
4 ml of phosphorus oxychloride is added to a solution of 1.69 g (0.005 mole) of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a ] [1,4]benzodiazepine-1-carboxamide in 5ml of dimethylformamide, and stirring maintained for 10 minutes at 80°. The reaction mixture is then poured on ice and extracted with ethylene chloride. The extract is washed with water and saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The residue is chromatographed on silica gel with the use of benzene and benzene/ethyl acetate mixtures as eluant. The fractions containing the desired nitrile [Rf = 0.5 in the eluant system benzene/chloroform/ethyl acetate (4:4:2)] are combined and concentrated by evaporation. The residue is crystallised from ethyl acetate/petroleum ether to obtain 6-phenyl-8-chloro-4H-s-triazolo [4,3-a][1,4]benzodiazepine-1-carbonitrile, M.P. 191°-192°.

reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a ] [1,4]benzodiazepine-1-carboxamide | 0.005 mole, 1.69 g | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C(=O)N | C17H12ClN5O
solvent | dimethylformamide | 5ml | CN(C=O)C | C3H7NO
product | 6-phenyl-8-chloro-4H-s-triazolo [4,3-a][1,4]benzodiazepine-1-carbonitrile | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C#N | C17H10ClN5
